US20010053779A1
A mixture of 3,4-diaminobenzoic acid (9.4 g, 62 mmol), ethyl 3-ethoxy-3-iminopropionate and glacial acetic acid (15 mL) was stirred 30 minutes at 1 10° C. under nitrogen. The mixture was poured over crushed ice (50 mL) and stirred 30 minutes to give a dark yellow oil. The mixture was stirred while diethyl ether (25 mL) was added to give a gray precipitate. The precipitate was isolated by filtration, washed several times with diethyl ether and dried under vacuum to provide 2-ethoxycarbonylmethyl-1H-benzoimidazole-5-carboxylic acid (12.6 g, 83% yield); 1H-NMR (300 Mhz, DMSO-d6): 12.77 (broad s, 1H), 8.10 (s, 1H), 7.79 (d, 1H, J=8.4 Hz), 7.57 (d, 1H, J=8.4 Hz), 4.11 (q, 2H, J=7.1 Hz), 4.02 (s, 2H), 1.17 (t, 3H, J=7.1 Hz).

reactant | 3,4-diaminobenzoic acid | 62 mmol, 9.4 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | ethyl 3-ethoxy-3-iminopropionate | C(C)OC(CC(=O)OCC)=N | C7H13NO3
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 2-ethoxycarbonylmethyl-1H-benzoimidazole-5-carboxylic acid | 12.6 g, 83% yield | C(C)OC(=O)CC1=NC2=C(N1)C=CC(=C2)C(=O)O | C12H12N2O4
